US08492395B2
To a stirred suspension of 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.50 g, 1.5 mmol) in acetonitrile (10 mL), was added dimethyl carbamyl chloride (0.21 mL, 2.2 mmol) and N,N-diisopropyl ethylamine (0.62 mL, 3.8 mmol). The mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-1,1-dimethyl-urea as an off-white solid (290 mg, 52% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min. 240 nm, 10/90 CH3CN/0.1% H3PO4, gradient to 95/5 in 5 min, kept for 5 min, 4.66 min (98.7%); mp, 264-268° C.; 1HNMR (DMSO-d6) 2.14-2.20 (m, 1H, CH), 2.56-2.86 (m, 12H, N(CH3)2, CHCH2, CH3), 4.31 (d, J=5 Hz, 2H, CH—NH), 5.26 (dd, J=6, 11 Hz, 1H, C H, 7.00 (t, f=5 Hz, 1H, CH2NH), 7.54-7.89 (m, 3H, Ar), 11.03 (s, 1H, NH); 13C NMR (DMSO-d6) δ20.95, 23.38, 30.61, 35.85, 43.20, 56.49, 119.88, 123.54, 126.30, 133.91, 139.98, 145.59, 154.27, 158.09, 160.50, 169.49, 172.62. LCMS MH=372; Anal Calcd For C18H21N5O4+0.5H2O: C, 56.83; H, 5.83; N, 18.41. Found: C, 56.71; H, 5.81; N, 18.18.

reactant | 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.5 mmol, 0.50 g | Cl.NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O
reactant | dimethyl carbamyl chloride | 2.2 mmol, 0.21 mL | CN(C(=O)Cl)C | C3H6ClNO
reactant | N,N-diisopropyl ethylamine | 3.8 mmol, 0.62 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-1,1-dimethyl-urea | 290 mg, 52% yield | O=C1NC(CCC1N1C(=NC2=CC=C(C=C2C1=O)CNC(N(C)C)=O)C)=O | C18H21N5O4
